US05981559
With cooling at -30° C. or below, thionyl chloride (75 ml) was added dropwise to methanol (150 ml). At -30° C., 3-(4-hydroxy-3-nitrophenyl)propionic acid (26.20 g, 0.12 mol) was added to this solution. The reaction solution was stirred at room temperature for 1 hour and then at 40 to 50° C. for 3 hours. The reaction solution was concentrated under reduced pressure. Then, a procedure of adding toluene (100 ml) to the residue and concentrating the mixture under reduced pressure was repeated twice. Thereafter, the resulting residue was crystallized from ether-hexane to give methyl 3-(4-hydroxy-3-nitrophenyl)propionate (26.20 g, 94%).

reactant | thionyl chloride | 75 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(4-hydroxy-3-nitrophenyl)propionic acid | 0.12 mol, 26.20 g | OC1=C(C=C(C=C1)CCC(=O)O)[N+](=O)[O-] | C9H9NO5
reactant | methanol | 150 ml | CO | CH4O
product | methyl 3-(4-hydroxy-3-nitrophenyl)propionate | 26.20 g, 94% | OC1=C(C=C(C=C1)CCC(=O)OC)[N+](=O)[O-] | C10H11NO5
